US08461170B2
tert-Butyl 4-(1-(3-methoxy-4-nitrophenyl)piperidin-4-yl)piperazine-1-carboxylate
tert-Butyl 4-(piperidin-4-yl)piperazine-1-carboxylate (1.842 g, 6.84 mmol) was added to a stirring mixture of 4-fluoro-2-methoxy-1-nitrobenzene (1.17 g, 6.84 mmol) and K2CO3 (2.83 g, 20.51 mmol) in acetonitrile (15 mL) and the reaction mixture was stirred at 90° C. for 15 h. The reaction mixture was filtered and concentrated in vacuo. The crude residue was purified by chromatography on silica gel (hexanes/EtOAc) to give the title product (2.5 g, 87%). m/z 421.

reactant | tert-Butyl 4-(piperidin-4-yl)piperazine-1-carboxylate | 6.84 mmol, 1.842 g | N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H27N3O2
reactant | 4-fluoro-2-methoxy-1-nitrobenzene | 6.84 mmol, 1.17 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | K2CO3 | 20.51 mmol, 2.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-Butyl 4-(1-(3-methoxy-4-nitrophenyl)piperidin-4-yl)piperazine-1-carboxylate | 2.5 g, 87% | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H32N4O5
